US09359338B2
Step 1: Synthesis of 4-(3-nitro-5-(trifluoromethyl)phenyl)-1,2,3,6-tetrahydropyridine
Dissolve tert-butyl 4-(3-nitro-5-(trifluoromethyl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate (300 mg, 0.81 mmol) in dichloromethane (10 mL), add trifluoroacetic acid (3 mL), stir at room temperature overnight. Adjust pH=8 with saturated NaHCO3 solution, extract with ethyl acetate, wash the organic extract with water and brine sequentially, dry over anhydrous sodium sulfate. Concentrate under reduced pressure to provide yellow oil (220 mg, 100%) which is used directly in next step.

reactant | tert-butyl 4-(3-nitro-5-(trifluoromethyl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 0.81 mmol, 300 mg | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)C1=CCN(CC1)C(=O)OC(C)(C)C | C17H19F3N2O4
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(3-nitro-5-(trifluoromethyl)phenyl)-1,2,3,6-tetrahydropyridine | 220 mg, 100% | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)C=1CCNCC1 | C12H11F3N2O2
